* D:\00 - ITBA\Electrónica 4\TPF\TP-FINAL\Simulation\OTROS\PWM\sch.asc
R1 vref N009 18k
C1 N009 0 1n
Vd1 N001 0 300
L1 N001 N006 {L1}
L2 0 N004 {L22}
S1 cs N006 VGG1 0 MYSW
D1 N004 N005 D
R2 VDD N005 1m
C2 VDD 0 50µ
R3 VDD 0 50
L3 0 N002 {L21}
D2 N002 N003 D
R4 Vo N003 1m
C3 Vo 0 50µ
R5 Vo 0 120
RCS cs 0 1
XU2 N011 N014 vref N013 NC_01 4N25
R6 Vo N011 24.6k
R7 Vo N016 109k
R8 N016 0 2.38k
D3 0 N014 UFZV33B
XU3 N016 0 N014 TL431
R9 N013 0 1k
R10 N013 fb 5K
R11 Vo N014 10k
C4 N016 N014 100p
R12 cs N008 1k
C5 N008 0 100p
Q7 VDD N010 VGG1 0 2N2222
Q8 0 N010 VGG1 0 2N2907
R17 VDD N010 12k
R18 N012 nand 1k
R19 N019 N017 1k
XU7 0 pwmo N015 0 Q N015 VDD 0 CD4013B VDD=16 SPEED=1.0 TRIPDT=1e-9
XU8 pwmo Q nand VDD 0 CD4093B VDD=16 SPEED=1.0 TRIPDT=1e-9
XU9 N015 pwmo N017 VDD 0 CD4093B VDD=16 SPEED=1.0 TRIPDT=1e-9
C7 VDD 0 10µ
Q9 VDD N018 VGG2 0 2N2222
Q10 0 N018 VGG2 0 2N2907
R20 VDD N018 12k
C8 VDD 0 10µ
Q11 N010 N012 0 0 2N2222
Q12 N018 N019 0 0 2N2222
Vd2 N020 0 300
L4 N020 N025 {L1}
L5 0 N023 {L22}
S2 cs N025 VGG1 0 MYSW
D4 N023 N024 D
R13 VDD N024 1m
C6 VDD 0 50µ
R14 VDD 0 50
L6 0 N021 {L21}
D5 N021 N022 D
R15 Vo N022 1m
C9 Vo 0 50µ
R16 Vo 0 120
RCS1 cs 0 1
R21 N007 fb 10k
C10 N007 fb 100p
XU4 N007 fb N008 N009 0 pwmo VDD vref UCC28C42_STEADY
.model D D
.lib C:\Users\ohvic\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\ohvic\AppData\Local\LTspice\lib\cmp\standard.bjt
K1 L1 L2 L3 1
.model MYSW SW(Ron=0.01 Roff=10Meg Vt=.5 Vh=.4 Lser=0 Vser=0)
.tran 100m
.param Fsw=50k Ts={1/Fsw} D=0.25 Ton={D*Ts}
.param AL=4700n N1=25 N21=28 N22=4
.param L1={AL*N1*N1} L21={AL*N21*N21} L22={AL*N22*N22}
K2 L4 L5 L6 1
.model MYSW SW(Ron=0.01 Roff=10Meg Vt=.5 Vh=.4 Lser=0 Vser=0)
.lib 4N25.sub
.lib C:\Users\ohvic\Downloads\tl431.mod
.lib CD4000_v.lib
.lib D:\00 - ITBA\Electrónica 4\TPF\TP-FINAL\Simulation\OTROS\PWM\UCC28C42_TRANS_UNENCR.lib
.backanno
.end
